US08624034B2
Step A) 2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrimidine
A degassed solution of 2-bromopyrimidine (1.5 g, 9.4 mmol), 2,2′-(1,4-phenylene)bis(4,4,5,5-tetramethyl-1,3,2-dioxaborolane) (5.1 g, 16.0 mmol), 1.0 M aq K3PO4 (28.3 mL, 28.3 mmol), and Pd(PPh3)4 (330 mg, 0.31 mmol) in DMF (140 mL) was heated to 80° C. and stirred at this temperature for 16 h. Water (100 mL) was added to the reaction mixture and was extracted with EtOAc (3×200 mL). The combined organic phases were dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude material was purified via flash chromatography using an eluent of 17% EtOAc in n-heptane to afford the title compound as a white solid (0.7 g, 28%). MS (LCMS) m/z 283.1 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.36 (s, 12H) 7.19 (t, J=4.68 Hz, 1H) 7.93 (d, J=8.00 Hz, 2H) 8.43 (d, J=7.81 Hz, 2H) 8.81 (d, J=4.68 Hz, 2H).

reactant | 2-bromopyrimidine | 9.4 mmol, 1.5 g | BrC1=NC=CC=N1 | C4H3BrN2
reactant | 2,2′-(1,4-phenylene)bis(4,4,5,5-tetramethyl-1,3,2-dioxaborolane) | 16.0 mmol, 5.1 g | C1(=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)B1OC(C(O1)(C)C)(C)C | C18H28B2O4
reactant | K3PO4 | 28.3 mmol, 1.0 M, 28.3 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | Water | 100 mL | O | H2O
solvent | DMF | 140 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.31 mmol, 330 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrimidine | 0.7 g, 28% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1=NC=CC=N1)C | C16H19BN2O2
